### PR TITLE
chore: cleaned some of the bitvec proofs

### PR DESCRIPTION
**Pull request by luisacicolini**

### CODE REVIEW

File: SSA/Projects/InstCombine/ForLean.lean [hunk 1]
```diff
@@ -470,7 +470,7 @@ theorem and_add_or {A B : BitVec w} : (B &&& A) + (B ||| A) = B + A := by
   rw [iunfoldr_replace (fun i => carry i B A false)]
   · simp [carry]; omega
   · intro i
-    simp only [adcb, getLsbD_and, getLsbD_or, ofBool_false, ofNat_eq_ofNat, BitVec.setWidth_zero,
+    simp only [adcb, getLsbD_and, getLsbD_or, ofBool_false, ofNat_eq_ofNat, zeroExtend_zero,
       BitVec.add_zero, Prod.mk.injEq]
     constructor
     · rw [carry_succ]
```
Comment (luisacicolini) [inline SSA/Projects/InstCombine/ForLean.lean]:
```suggestion
    simp only [adcb, getLsbD_and, getLsbD_or, ofBool_false, ofNat_eq_ofNat, BitVec.setWidth_zero,
      BitVec.add_zero, Prod.mk.injEq]
    constructor
    · rw [carry_succ]
```

**Review by tobiasgrosser — APPROVED** [review]
